US07423156B2
N-(4-Bromo-2-fluorophenyl)-N-(6-trifluoromethoxy-1,3-benzothiazol-2-yl)amine
In a 250-mL round-bottom flask, 2-chloro-6-trifluoromethoxy-1,3-benzothiazole (5.36 g, 21.14 mmol) and 4-bromo-2-fluoroaniline (4.82 g, 25.36 mmol) were combined in 100 mL n-butanol containing 1% 4.0 M HCl in dioxane, and heated at 90° C. overnight. The mixture was cooled to rt and the solvent was removed under reduced pressure. Ethyl acetate (50 mL) was added, and the mixture was ultrasonicated by suspending the flask in an ultrasonication bath for 30 minutes. The mixture was filtered, and the filtrate was concentrated under reduced pressure. Acetonitrile (50 mL) was added to the mixture, which was then ultrasonicated for 30 minutes and then filtered to provide the product as a white solid (5 g, 58%). LC-MS m/z 409.1 (MH+), ret. time 4.02 min.

reactant | 2-chloro-6-trifluoromethoxy-1,3-benzothiazole | 21.14 mmol, 5.36 g | ClC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H3ClF3NOS
reactant | 4-bromo-2-fluoroaniline | 25.36 mmol, 4.82 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
solvent | n-butanol | 4.0 M, 100 mL | C(CCC)O | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(4-Bromo-2-fluorophenyl)-N-(6-trifluoromethoxy-1,3-benzothiazol-2-yl)amine | 5 g, 58% | BrC1=CC(=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F)F | C14H7BrF4N2OS
